US07192982B2
Step 1: 3-(3-benzyloxy-phenyl)-3-hydroxy-2-methoxy-propionic acid methyl ester
Sodium trimethylsilylamide 1M in THF (20.73 mL, 20.73 mmol) was added to a 2-neck round bottom flask under nitrogen. The flask was placed in an acetone bath cooled to about −78° C. A solution of methyl 2-methoxyacetate (2.34 mL, 23.55 mmol) and 3-benzyloxybenzaldehyde (4.0 g, 18.85 mmol) in dry THF (24 mL) was added dropwise via cannula over 10 minutes. The mixture was stirred at −78° C. for 3 hours. HPLC-MS showed the presence of starting aldehyde at this time. Additional 10 mL of NaHDMS were added, and the mixture was stirred for another hour, and then HCl 3N (50 mL) was added to the mixture at −78° C. The bath was removed, and the mixture was extracted with diethyl ether (4×50 mL). The combined organic layers were dried over MgSO4 and concentrated to afford an oil that was purified by chromatography (silica gel, hexanes/ethyl acetate 3:1). Rf. 0.13. (two isomers) 1H-NMR (CDCl3, 200.15 MHz): 7.45–7.22 (m, 12H), 7.05–6.89 (m, 6H), 5.07 (d, 4H, J=1.1), 4.93 (dd, 2H, J=11.8, 5.9), 3.97 (d, 1H, J=5.6), 3.89 (d, 1H, J=5.4), 3.67 (s, 3H), 3.65 (s, 3H), 3.40 (s, 3H), 3.37 (s, 3H), 2.92 (br s, 1H), 2.83 (br s, 1H).

reactant | Sodium trimethylsilylamide | 1M | C[Si](C)(C)[NH-].[Na+]
reactant | methyl 2-methoxyacetate | 23.55 mmol, 2.34 mL | COCC(=O)OC | C4H8O3
reactant | 3-benzyloxybenzaldehyde | 18.85 mmol, 4.0 g | C(C1=CC=CC=C1)OC=1C=C(C=O)C=CC1 | C14H12O2
reactant | HCl | 3N, 50 mL | Cl | ClH
solvent | THF | 24 mL | C1CCOC1 | C4H8O
solvent | THF | 20.73 mmol, 20.73 mL | C1CCOC1 | C4H8O
product | 3-(3-benzyloxy-phenyl)-3-hydroxy-2-methoxy-propionic acid methyl ester | COC(C(C(O)C1=CC(=CC=C1)OCC1=CC=CC=C1)OC)=O | C18H20O5
